US05557017
Into a 1 l four-necked flask equipped with a stirrer, a reflux condenser, a dropping funnel and a thermometer, 200 cc of methanol, 74.3 g (1.1 mols) of 85% potassium hydroxide and 1 g of tetrabutylphosphonium bromide were charged. The reactor was heated to bring the internal temperature to 60° C. Then, 223 g (0.5 mol) of C6F13I was dropwise added thereto over a period of one hour. After completion of the dropwise addition, heating and refluxing were continued for tow hours. The conversion at that time was 98.1%. The heating and refluxing were further continued for two hours. Then, the reactor was cooled to room temperature, and 200 g of water was added to dissolve precipitated potassium iodide. The crude reaction solution was separated into two layers, and the fluorocarbon layer (lower layer) was further washed with 300 g of water to recover the fluorocarbon. Thus, 157 g of C6F13H having a purity of 99.1%, was obtained.

reactant | methanol | 200 cc | CO | CH4O
reactant | potassium hydroxide | 1.1 mols, 74.3 g | [OH-].[K+]
reactant | C6F13I | 0.5 mol, 223 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)I | C6F13I
catalyst | tetrabutylphosphonium bromide | 1 g | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 200 g | O | H2O
product | C6F13H | 157 g | C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F | C6HF13
